US05622947
0.129 g of ethyl acetoimidate hydrochloride was added to 15 ml of a suspension of 0.5 g of 5-(2-amino-ethoxy)-7-chloro-1-[2-methoxy-4-(2-chlorobenzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine in ethanol with ice-cooling. The mixture was stirred overnight at room temperature. Then, 0.163 g of ethyl acetoimidate hydrochloride was further added. The mixture was stirred at 50° C. for 7 hours and then refluxed for 3 hours. After cooling, the reaction mixture was subjected to filtration to remove insolubles. The filtrate was concentrated. The residue was purified by silica gel column chromatography (elutant: dichloromethane/methanol=30/1) to obtain 0.2 g of 5-[2-(1-iminoethyl)aminoethoxy]-7-chloro-1-[2-methoxy-4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzo-azepine hydrochloride.

reactant | ethyl acetoimidate hydrochloride | 0.129 g | Cl.C(C)(OCC)=N
reactant | 5-(2-amino-ethoxy)-7-chloro-1-[2-methoxy-4-(2-chlorobenzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine | 0.5 g | NCCOC1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)OC)=O | C27H27Cl2N3O4
reactant | ethyl acetoimidate hydrochloride | 0.163 g | Cl.C(C)(OCC)=N
solvent | ethanol | C(C)O | C2H6O
product | 5-[2-(1-iminoethyl)aminoethoxy]-7-chloro-1-[2-methoxy-4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzo-azepine hydrochloride | 0.2 g | Cl.N=C(C)NCCOC1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)OC)=O | InChI=1S/C29H30Cl2N4O4.ClH/c1-18(32)33-13-15-39-26-8-5-14-35(25-12-9-19(30)16-23(25)26)29(37)22-11-10-20(17-27(22)38-2)34-28(36)21-6-3-4-7-24(21)31;/h3-4,6-7,9-12,16-17,26H,5,8,13-15H2,1-2H3,(H2,32,33)(H,34,36);1H
